US04613609
3-Methyl-1-[2-[4-((methylsulfonyl)amino)phenyl]ethyl]- 1H-imidazolium iodide
Heat a mixture of 5 g (0.019 mole) of N-[4-[2-(1H-imidazol-1-yl)ethyl]phenyl]methanesulfonamide, 5 mL of iodomethane and 25 mL of methanol in a pressure tube at 75° C. for about 24 hours. Cool the mixture to room temperature and remove the solvents in vacuo. Slurry the residue in acetone (50 mL) and filter and wash with acetone (100 mL). Drying provides the title compound, which may be recrystallized from methanol.

reactant | N-[4-[2-(1H-imidazol-1-yl)ethyl]phenyl]methanesulfonamide | 0.019 mole, 5 g | N1(C=NC=C1)CCC1=CC=C(C=C1)NS(=O)(=O)C | C12H15N3O2S
reactant | iodomethane | 5 mL | IC | CH3I
solvent | methanol | 25 mL | CO | CH4O
product | 3-Methyl-1-[2-[4-((methylsulfonyl)amino)phenyl]ethyl]- 1H-imidazolium iodide | [I-].CN1C[NH+](C=C1)CCC1=CC=C(C=C1)NS(=O)(=O)C | InChI=1S/C13H19N3O2S.HI/c1-15-9-10-16(11-15)8-7-12-3-5-13(6-4-12)14-19(2,17)18;/h3-6,9-10,14H,7-8,11H2,1-2H3;1H
